US04863904
A solution of 173 g of 1-naphthylacetic acid and 151 mg of 1,1'-carbonyldiimidazole in dry dichloromethane was stirred for 1 hour at room temperature. To the mixture was added 227 mg of 3-amino-2-benzylpropionic acid ethyl ester obtained, and the mixture was heated under reflux for 16 hours. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in ethyl acetate, and then the organic layer was washed successively with a 1N-hydrochloric acid, a 5% aqueous sodium bicarbonate solution and water. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by preparative silica gel thin layer chromatography (developing solvent: chloroform/ethanol=5/1 by volume) to obtain 169 mg of 2-benzyl-3-(1-naphthylacetamido)propionic acid ethyl ester as colorless crystals.

reactant | 1-naphthylacetic acid | 173 g | C1(=CC=CC2=CC=CC=C12)CC(=O)O | C12H10O2
reactant | 1,1'-carbonyldiimidazole | 151 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-amino-2-benzylpropionic acid ethyl ester | 227 mg | C(C)OC(C(CN)CC1=CC=CC=C1)=O | C12H17NO2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-benzyl-3-(1-naphthylacetamido)propionic acid ethyl ester | 169 mg | C(C)OC(C(CNC(CC1=CC=CC2=CC=CC=C12)=O)CC1=CC=CC=C1)=O | C24H25NO3
